US04113968
1.80 Parts of ethyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylate prepared in the same manner as in Example 1 was agitated at 40° to 50° C. for 3 hours in the presence of 8.65 parts of a 10% solution of potassium hydroxide and methanol to effect hydrolysis of the ester and obtain 1.43 parts of 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylic acid, the data of the melting point and NMR spectrum of which were in agreement with the data described in Example 4.

reactant | ethyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylate | CC1(C(C1C=C(Cl)Cl)C(=O)OCC)C | C10H14Cl2O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylic acid | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
